US06245746B1
(A) Nα-Benzyl-Nδ-Boc-Nα-Methylornithine 2-(4-Hydroxyphenyl)ethylamide
This compound is prepared using Procedure C by coupling of Nα-benzyl-Nδ-Boc-Nα-methylornithine and (4-hydroxyphenyl)ethylamine.

reactant | Nα-benzyl-Nδ-Boc-Nα-methylornithine | C(C1=CC=CC=C1)N([C@@H](CCCNC(=O)OC(C)(C)C)C(=O)O)C | C18H28N2O4
reactant | (4-hydroxyphenyl)ethylamine | OC1=CC=C(C=C1)CCN | C8H11NO
product | Nα-Benzyl-Nδ-Boc-Nα-Methylornithine 2-(4-Hydroxyphenyl)ethylamide | OC1=CC=C(C=C1)CCNC([C@@H](N(C)CC1=CC=CC=C1)CCCNC(=O)OC(C)(C)C)=O | C26H37N3O4
